US04845228
Thirty-five ml of ether was cooled to -78° C., to which 20 ml of a 1.6 mol n-butyl lithium solution in hexane was added. Next, 5 g of 4-bromopyridine was dissolved in 30 ml of ether and the solution was added to the mixture. Then, a solution of 5 g of 1,4-cyclohexanedione monoethyleneacetal in 30 ml of tetrahydrofuran was added to the mixture. After completion of the reaction, the reaction solution was poured into saturated ammonium chloride aqueous solution. The mixture was extracted with chloroform and the extract was purified to give 5 g of 4-hydroxy-4-(4-pyridyl)cyclohexanone ethyleneacetal.

reactant | n-butyl lithium | 1.6 mol | C(CCC)[Li]
reactant | 4-bromopyridine | 5 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | 1,4-cyclohexanedione monoethyleneacetal | 5 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether | Thirty-five ml | CCOCC | C4H10O
product | 4-hydroxy-4-(4-pyridyl)cyclohexanone ethyleneacetal | 5 g | C1COC2(CCC(CC2)(C2=CC=NC=C2)O)O1 | C13H17NO3
